US07659268B2
To a mixture of (R)-2-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (200 mg, 0.600 mmol) and N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (183 mg, 0.500 mmol) in DME (3 mL) and 2 M Na2CO3 (1 mL) was added Pd(PPh3)4 (29 mg, 0.025 mmol). The mixture was heated in microwave oven at 120° C. for 30 min. The mixture was partitioned between ethyl acetate and H2O, and the aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine and dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography to yield (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-5-methylpyridin-2-yl)cyclopropanecarboxamide (212 mg, 79%). MS (ESI) m/e (M+H+) 539.2.

reactant | (R)-2-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.600 mmol, 200 mg | CC1(OC[C@H](O1)COC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C18H27BO5
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.500 mmol, 183 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-5-methylpyridin-2-yl)cyclopropanecarboxamide | 212 mg, 79% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C2=CC=C(C=C2)OC[C@H]2OC(OC2)(C)C)F | C29H28F2N2O6
